US04957917
Reacting 1-N-acetyl-20-(-N',N'-dimethyl)decyl diamine (prepare from 1,10-(-N',N'-dimethyl)decyl diamine with acetyl chloride) with lithium diisopropylamide, followed by 5-triethylsilyl-3-furaldehyde and acetic anhydride gives 4-[1-acetoxy-2(N-10-N',N'-dimethyl)aminodecyl)amido]ethyl-2-trimethylsilylfuran. Treatment of this intermediate with excess iodomethane followed by singlet oxygen oxidation gives r-[1-acetoxy-2-(N-10-(N',N',N'-trimethyl)aminodecyl)amido]ethyl-5-hydroxy-2(5H)-furanone.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 5-triethylsilyl-3-furaldehyde | C(C)[Si](C1=CC(=CO1)C=O)(CC)CC | C11H18O2Si
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | ethyl-2-trimethylsilylfuran | C(C)C1=C(OC=C1)[Si](C)(C)C | C9H16OSi
